US07514448B2
2-[3-(3-Piperidin-1-yl-propane-1-sulfonylamino)-phenyl]-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide
The crude 2-[3-(3-chloro-propane-1-sulfonylamino)-phenyl]-N-[4-(1H-pyrrolo [2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide was treated with neat piperidine and heated to 100° C. overnight. The reaction mixture was diluted with DMF and purified by preparative HPLC to give the desired compound.

reactant | 2-[3-(3-chloro-propane-1-sulfonylamino)-phenyl]-N-[4-(1H-pyrrolo [2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide | ClCCCS(=O)(=O)NC=1C=C(C=CC1)CC(=O)NC=1SC=C(N1)C1=CNC2=NC=CC=C21 | C21H20ClN5O3S2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[3-(3-Piperidin-1-yl-propane-1-sulfonylamino)-phenyl]-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide | N1(CCCCC1)CCCS(=O)(=O)NC=1C=C(C=CC1)CC(=O)NC=1SC=C(N1)C1=CNC2=NC=CC=C21 | C26H30N6O3S2
